### PR TITLE
[Merged by Bors] - feat(Order/OrderIsoNat+Data/Finset/Sort): add finiteness and identity theorems for linear orders

### PR DESCRIPTION
**Pull request by paulcadman**
Add theorems to prove that finite, strictly monotone self-maps are the identity.

In order to show that we do not lose generality by using the `Finite` constraint instead of `WellFoundedGT` + `WellFoundedLT` add a theorem to prove that a linear order that is well-founded in both directions is finite.

To prove the latter also add a theorem to prove that every infinite linear order contains either a strictly increasing or a strictly descreasing sequence.

The theorems in `Data/Finset/Sort` are required for https://github.com/leanprover-community/mathlib4/pull/41160.

---

I'm not sure exactly where to put the new theorems, the current locations are my best guess.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge

File: Mathlib/Order/OrderIsoNat.lean [hunk 1]
```diff
@@ -189,6 +193,31 @@ theorem exists_increasing_or_nonincreasing_subseq (r : α → α → Prop) [IsTr
...
+  obtain ⟨g, hIncreasing | hNonincreasing⟩ :=
+    exists_increasing_or_nonincreasing_subseq (· < ·) f
+  · exact ⟨f ∘ g, Or.inl hIncreasing⟩
+  · exists f ∘ g
+    right
+    intro m n hmn
+    refine lt_of_le_of_ne ?_ ?_
+    · exact not_lt.mp (hNonincreasing m n hmn)
+    · apply (f.injective.comp g.injective).ne
+      exact Nat.ne_of_lt' hmn
```
Comment (ocfnash) [inline Mathlib/Order/OrderIsoNat.lean]: I slightly prefer the following because it branches later (making it clear that we supply the same data `f ∘ g` in each case) and it requires knowing fewer lemma names:
```suggestion
  obtain ⟨g, hg⟩ := exists_increasing_or_nonincreasing_subseq (· < ·) f
  refine ⟨f ∘ g, ?_⟩
  rcases hg with hIncreasing | hNonincreasing
  · exact Or.inl hIncreasing
  · refine Or.inr <| fun m n hmn ↦ lt_of_le_of_ne ?_ ((f.injective.comp g.injective).ne ?_)
    · grind
    · grind
```
It would be even better if we didn't need to name `lt_of_le_of_ne` explicitly but I couldn't immediately see a non-contrived alternative.

**Review by ocfnash — COMMENTED** [review]
This LGTM modulo a silly proof golf (suggested inline) and the placement of the two lemmas in `Data.Finset.Sort`.

**Comment by ocfnash** [comment]
I have minor suggestions 

bors r-

**Comment by ocfnash** [comment]
It seems to me that everything in the file `Data/Finset/Sort.lean` from https://github.com/leanprover-community/mathlib4/blob/a7a0864217d023035b6915bf6fcd07cc9e3161d0/Mathlib/Data/Finset/Sort.lean#L350 does not really belong. I suggest moving all of these and your two new lemmas somewhere else, possibly to a new file.

File: Mathlib/Order/OrderIsoNat.lean (hunk 1 above)
Comment (paulcadman) [reply Mathlib/Order/OrderIsoNat.lean]: Agreed, thanks.- done in https://github.com/leanprover-community/mathlib4/pull/41679/commits/e3447e0331038ec4b6ca9bdf9def7345f886ab33

**Comment by ocfnash** [comment]
Thanks!

bors merge
